US09029560B2
Preparation of ethyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropanecarboxylate (C19)
To an oven-dried round bottomed flask was added sodium hydride (60% oil immersion, 0.380 g, 9.50 mmol) and anhydrous dimethyl sulfoxide (30 mL). Gas evolution occurred, and the solution was stirred at room temperature for 15 minutes. Trimethylsulfoxonium iodide (2.10 g, 9.54 mmol) was added, the flask neck was rinsed with anhydrous dimethyl sulfoxide (5 mL), and the reaction was stirred for 15 minutes. To the reaction was added (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C17) (3.22 g, 7.98 mmol) as a solid. The reaction was stirred at room temperature for 30 minutes, and then quenched with water and extracted with 1:1 ethyl acetate/hexanes (2×). The combined organic layers were washed with water (3×), dried over anhydrous sodium sulfate, filtered, and concentrated to afford the title compound as a yellow oil (1.50 g, 41%): 1H NMR (400 MHz, CDCl3) δ 8.55 (s, 1H), 8.10 (d, J=8.4 Hz, 2H), 7.80 (d, J=9.1 Hz, 2H), 7.39 (dd, J=6.6, 5.9 Hz, 2H), 7.20 (d, J=8.3 Hz, 2H), 4.19 (dt, J=14.0, 7.0 Hz, 2H), 2.64-2.52 (m, 2H), 1.97 (ddd, J=8.5, 5.3, 4.2 Hz, 1H), 1.71-1.61 (m, 1H), 1.42-1.32 (m, 1H), 1.29 (t, J=7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 418 ([M+H]+).

reactant | sodium hydride | 9.50 mmol, 0.380 g | [H-].[Na+]
reactant | Trimethylsulfoxonium iodide | 9.54 mmol, 2.10 g | [I-].C[S+](=O)(C)C
reactant | (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 7.98 mmol, 3.22 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC)(F)F | C20H16F3N3O3
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | ethyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropanecarboxylate | 1.50 g, 41% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C1C(C1)C(=O)OCC)(F)F | C21H18F3N3O3
